US09193693B2
Step 1. Methyl 3-(phenethylamino)-2-phenylquinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), 2-phenylethanamine hydrochloride (207.8 mg, 1.32 mmol, 3.00 equiv), potassium carbonate (304.4 mg, 2.21 mmol, 5.00 equiv), N,N-dimethylformamide (2 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of 20 mL of water. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 120 mg (71%) of methyl 3-(phenethylamino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 2-phenylethanamine hydrochloride | 1.32 mmol, 207.8 mg, 3.00 equiv | Cl.C1(=CC=CC=C1)CCN
reactant | potassium carbonate | 2.21 mmol, 304.4 mg, 5.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(phenethylamino)-2-phenylquinoxaline-6-carboxylate | C(CC1=CC=CC=C1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C24H21N3O2
